US04533670
1-([2-(9H-fluoren-2-yl)-1,3-dithiolan-2-yl]methyl)-1H-imidazole hydrochloride
To a solution of 10.0 g. of 2-(1H-imidazol-1-yl)-1-(9H-fluoren-2-yl)ethanone in 25 ml. of methanesulfonic acid were added 12.2 ml. of 1,2-ethanedithiol. After stirring overnight at room temperature, the reaction mixture was poured into water and the solution was made basic with sodium hydroxide. The resulting solid was recovered by filtration and crystallized from acetone/3 equivalents of hydrochloric acid to provide 10.16 g. of the title product, m.p. 248° C.

reactant | 2-(1H-imidazol-1-yl)-1-(9H-fluoren-2-yl)ethanone | N1(C=NC=C1)CC(=O)C1=CC=2CC3=CC=CC=C3C2C=C1 | C18H14N2O
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | 1,2-ethanedithiol | C(CS)S | C2H6S2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetone | 3 equivalents | CC(=O)C | C3H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1-([2-(9H-fluoren-2-yl)-1,3-dithiolan-2-yl]methyl)-1H-imidazole hydrochloride | Cl.C1=C(C=CC=2C3=CC=CC=C3CC12)C1(SCCS1)CN1C=NC=C1 | InChI=1S/C20H18N2S2.ClH/c1-2-4-18-15(3-1)11-16-12-17(5-6-19(16)18)20(23-9-10-24-20)13-22-8-7-21-14-22;/h1-8,12,14H,9-11,13H2;1H
